US07230011B2
1-Propyl-5-methoxy-7-methyl-3-(1-methylpiperdin-4-yl)-1H-indole
By a method similar to Preparation 26, using 5-methoxy-7-methyl-3-(1-methylpiperidin-4-yl)-1H-indole (5.81 mmole, 1.50 g), iodopropane (5.81 mmole, 0.987 g, 0.566 mL) in THF (100 mL), potassium hydride (5.81 mmole, 0.665 g), and 18-crown-6 (0.58 mmole, 0.153 g) afforded 1.26 g (72%) of the title compound: mass spectrum (ion spray): m/z=301 (M+1);. Calculated for C19H28N2O-0.3H2O: C, 74.61; H, 9.43; N, 9.16. Found: C, 74.37; H, 9.03; N, 9.01.

reactant | 5-methoxy-7-methyl-3-(1-methylpiperidin-4-yl)-1H-indole | 5.81 mmole, 1.50 g | COC=1C=C2C(=CNC2=C(C1)C)C1CCN(CC1)C | C16H22N2O
reactant | iodopropane | 5.81 mmole, 0.566 mL, 0.987 g | ICCC | C3H7I
reactant | potassium hydride | 5.81 mmole, 0.665 g | [H-].[K+]
reactant | 18-crown-6 | 0.58 mmole, 0.153 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-Propyl-5-methoxy-7-methyl-3-(1-methylpiperdin-4-yl)-1H-indole | 1.26 g, 72% | C(CC)N1C=C(C2=CC(=CC(=C12)C)OC)C1CCN(CC1)C | C19H28N2O
